US07081538B1
3-Fluoro-4-iodobenzaldoxime
3-Fluoro-4-iodoaniline (15.36 g, 0.069 M) and concentrated hydrochloric acid (18.51 g) were dissolved in a mixture of water (30 ml) and ice (30 g). The solution was treated at 0–5° with a solution of sodium nitrite (4.81 g, 0.07 M) in water (15 ml). The pH of the resulting red-brown solution was adjusted to 5–6 by the addition of sodium acetate (6.05 g, 0.044 M). To the solution of formaldoxime was added sodium acetate (45.38 g, 0.333 M), hydrated copper sulfate (1.72 g, 6.9 mM) and sodium sulfite (0.275 g, 2.18 mM), giving a deep green solution, which was cooled to 10–15°. The solution of the diazonium salt was then slowly introduced with vigorous stirring, and stirring continued for 1 hour. The mixture was extracted with diethyl ether (3×100 ml), the combined extracts washed with water (100 ml), and dried (magnesium sulfate). The residue after filtration and evaporation was chromatographed in four portions on 50 g silica Mega Bond Elut® columns, eluting with a gradient from dichloromethane to 5% methanol in dichloromethane. Relevant fractions were combined to give the desired product (3.52 g).

reactant | 3-Fluoro-4-iodoaniline | 0.069 M, 15.36 g | FC=1C=C(N)C=CC1I | C6H5FIN
reactant | hydrochloric acid | 18.51 g | Cl | ClH
reactant | sodium nitrite | 0.07 M, 4.81 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 0.044 M, 6.05 g | C(C)(=O)[O-].[Na+]
reactant | formaldoxime | C=NO | CH3NO
reactant | sodium acetate | 0.333 M, 45.38 g | C(C)(=O)[O-].[Na+]
reactant | sodium sulfite | 2.18 mM, 0.275 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 3-Fluoro-4-iodobenzaldoxime | 3.52 g | FC=1C=C(C=NO)C=CC1I | C7H5FINO
